US06858600B2
A solution of 23.30 g (62.91 mmol) N-Benzyloxycarbonyl-phenylalanine-glycine-methylester (obtained above) in 650 ml dry methanol was hydrogenated by adding Pd/C-catalyst and stirring the resulting mixture under H2 at r.t. for 3 h. After that, the mixture was filtered through celite and then half of the solvent was evaporated. The remaining solution was refluxed for 17 h. Filtration of the white precipitate and washing it twice with methanol yielded 10.71 g (52.45 mmol, 83.37%) 6-(S)-Benzyl-piperazine-2,5-dione as a white solid.

reactant | N-Benzyloxycarbonyl-phenylalanine glycine-methylester | 62.91 mmol, 23.30 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O.COC(CN)=O
solvent | methanol | 650 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 6-(S)-Benzyl-piperazine-2,5-dione | 52.45 mmol, 10.71 g, 83.37% | C(C1=CC=CC=C1)[C@H]1C(NCC(N1)=O)=O | C11H12N2O2
